US06218579B1
A mixture of 1,3-Cyclohexanedione (2.31 g), potassium carbonate (1.5 g) and acetonitrile (20 ml) were stirred at 35° C. for 3 hrs. To the resulting suspension was added benzoylchloride (1.5 g) over a few minutes and the mixture was stirred for 30 minutes. Potassium carbonate (2 g) and 1,2,4-triazole (0.035 g) were then added and the mixture was stirred at 35° C. for 16 hrs. After this time the reaction mixture was evaporated under reduced pressure, the mixture dissolved in water and acidified with HCl to precipitate the product. Extraction into chloroform and evaporation gave a 90% yield of 2-benzoyl-1,3-cyclohexanedione.

reactant | 1,3-Cyclohexanedione | 2.31 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoylchloride | 1.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2,4-triazole | 0.035 g | N1N=CN=C1 | C2H3N3
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-benzoyl-1,3-cyclohexanedione | 90% yield | C(C1=CC=CC=C1)(=O)C1C(CCCC1=O)=O | C13H12O3
